US07138414B2
b) 1-(2-amino-4-fluorophenyl)piperidine-4-carboxylic acid hydrochloride
The solution of 804 mg of 1-(4-fluoro-2-nitrophenyl)piperidine-4-carboxylic acid in 40 ml of ethyl acetate was admixed with 3.8 g of tin(II) chloride and stirred at RT for 2 hours. 50 ml of water were then added and the mixture was filtered through a clarifying layer. The ethyl acetate phase was removed, dried over sodium sulfate and concentrated by rotary evaporator, leaving a semisolid residue which was subjected directly to further reaction.

reactant | 1-(4-fluoro-2-nitrophenyl)piperidine-4-carboxylic acid | 804 mg | FC1=CC(=C(C=C1)N1CCC(CC1)C(=O)O)[N+](=O)[O-] | C12H13FN2O4
reactant | tin(II) chloride | 3.8 g | [Sn](Cl)Cl
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-amino-4-fluorophenyl)piperidine-4-carboxylic acid hydrochloride | Cl.NC1=C(C=CC(=C1)F)N1CCC(CC1)C(=O)O | InChI=1S/C12H15FN2O2.ClH/c13-9-1-2-11(10(14)7-9)15-5-3-8(4-6-15)12(16)17;/h1-2,7-8H,3-6,14H2,(H,16,17);1H
